US09422331B2
To a solution of (2S,3S)-3-(2-amino-phenylamino)-2-tert-butoxycarbonylamino-butyric acid (5.29 g, 17.1 mmol) in N,N-dimethylformamide (50 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (4.26 g, 22.2 mmol) and the reaction was stirred at ambient temperature for 24 h. The mixture was concentrated in vacuo, diluted with water (100 ml) and extracted with ethyl acetate (2×100 mL). The organic layers were combined, dried over sodium sulfate, filtered and concentrated in vacuo to give ((2S,3S)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester which was used in the subsequent step without further purification (4.55 g, 91%).

reactant | (2S,3S)-3-(2-amino-phenylamino)-2-tert-butoxycarbonylamino-butyric acid | 17.1 mmol, 5.29 g | NC1=C(C=CC=C1)N[C@H]([C@@H](C(=O)O)NC(=O)OC(C)(C)C)C | C15H23N3O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 22.2 mmol, 4.26 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ((2S,3S)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NC2=C(N[C@H]1C)C=CC=C2)=O)=O | C15H21N3O3
